US05077283
1-Cyclopropyl-7-[4-(diethoxyphosphinyl)-1-piperazinyl]-6-fluoro-1.4-dihydro-4-oxo-3-quinolinecarboxylic Acid
A suspension of 2.816 g (8.5 mmol) of ciprofloxacin base in 100 ml of dry CH2Cl2 was stirred under argon as 3.46 g (17 mmol) of N,O-bis(trimethylsilyl)acetamide was added. After the solid had dissolved (2-3 hours), 1.47 g (8.5 mmol) of diethyl chlorophosphate was added. After 24 hours at approximately 23° the solution was evaporated, finally at 0.03 mm for 15 hours. Washing of the solid residue with water gave a white solid which was dried and then recrystallized from CH2Cl2 -toluene, boiling out the CH2Cl2 within 10 minutes to avoid thermal degradation. The product was 3.74 g (94%) of cream-colored solid, m.p. 192°-193° C.; NMR (CDCl3, 80 MHz) δ 1.36 (t, CH3), 3.30 (s, CH2N), 4.06 (5 peaks, OCH2); IR (KBr) 1028(P=O), 1630 (--COOH), 1724 cm- (C=O).

reactant | ciprofloxacin | 8.5 mmol, 2.816 g | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
reactant | N,O-bis(trimethylsilyl)acetamide | 17 mmol, 3.46 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | diethyl chlorophosphate | 8.5 mmol, 1.47 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Cyclopropyl-7-[4-(diethoxyphosphinyl)-1-piperazinyl]-6-fluoro-1.4-dihydro-4-oxo-3-quinolinecarboxylic Acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)P(=O)(OCC)OCC)F)=O)C(=O)O | C21H27FN3O6P
